US05399699
To a suspension under N2 of 4-methoxyphenylhydrazine hydrochloride (41 g, 230 mmol) in methylene chloride (1000 ml) were added diisopropylamine (79.8 g, 612 mmol), 4-chlorobenzyl chloride (40.25 g, 250 mmol) and tetrabutylammonium bromide (22.8 g, 70 mmol), and the resulting mixture was stirred at room temperature for 48 hours. The reaction mixture was then washed with water and brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by chromatography on silica gel (2.5% methanol/methylene chloride), followed by washing of the solid with 10% ethyl ether in hexane and drying in vacuo to provide 43.5 g of 1-(4-chlorobenzyl)-1-(4-methoxyphenyl)hydrazine. mp.55° C.

reactant | 4-methoxyphenylhydrazine hydrochloride | 230 mmol, 41 g | Cl.COC1=CC=C(C=C1)NN
reactant | diisopropylamine | 612 mmol, 79.8 g | C(C)(C)NC(C)C | C6H15N
reactant | 4-chlorobenzyl chloride | 250 mmol, 40.25 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 70 mmol, 22.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-chlorobenzyl)-1-(4-methoxyphenyl)hydrazine | 43.5 g | ClC1=CC=C(CN(N)C2=CC=C(C=C2)OC)C=C1 | C14H15ClN2O
